US05409943
(c) N-[3-(2-Chloro-6-fluorobenzyloxy)-5-chloropyrid-2-yl]-N'-(4chlorophenyl)guanidine
A mixture of yellow men:uric oxide (0.36 g, 0.0017 mol), N-[3-(2-chloro-6-fluorobenzyloxy)-5-chloropyrid-2-yl]-N'-4-chlorophenylthiourea (0.64 g, 0.0014 mol)and methanolic ammonia solution (20 ml) was stirred for 1 day at room temperature. The solvent was removed in vacuo and the black residue was boiled with chloroform and filtered hot. Evaporation of the solvent followed by recrystallisation from ethanol gave the desired product. Yield 0.09 g (15%), m.p. 162°-163 ° C.

reactant | N-[3-(2-chloro-6-fluorobenzyloxy)-5-chloropyrid-2-yl]-N'-4-chlorophenylthiourea | 0.0014 mol, 0.64 g | ClC1=C(COC=2C(=NC=C(C2)Cl)NC(=S)NC2=CC=C(C=C2)Cl)C(=CC=C1)F | C19H13Cl3FN3OS
reactant | ammonia | 20 ml | N | H3N
product | N-[3-(2-Chloro-6-fluorobenzyloxy)-5-chloropyrid-2-yl]-N'-(4chlorophenyl)guanidine | ClC1=C(COC=2C(=NC=C(C2)Cl)NC(=N)NC2=CC=C(C=C2)Cl)C(=CC=C1)F | C19H14Cl3FN4O
